US04205170
To 151 mg of ethyl2-(10,11-dihydro-11-oxo dibenzo[b,f]-oxepin-2-yl)-propionate in 2ml of ethanol was added 400 mg of potassium hydroxide in 2 ml of water and the mixture was stirred at room temperature for 0.5 hour. After the completion of the reaction, to this was added water and the mixture was extracted with benezene. The aqueous layer was acidified with hydrochloric acid and extracted with ethyl acetate. The extract was washed with saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain pale brown oil, which was chromatographed over silica gel, eluted with chloroform and there was obtained 112 mg of 2-(10,11-dihydro-11-oxo dibenzo[b,f]oxepin-2-yl)-propionic acid as pale yellow oil. This was crystallized from the mixed solvent of ethyl acetate-n-hexane to give pale yellow crystals having a melting point of 156°-157° C.

reactant | ethyl2-(10,11-dihydro-11-oxo dibenzo[b,f]-oxepin-2-yl)-propionate | 151 mg | C(C)OC(C(C)C1=CC2=C(OC3=C(CC2=O)C=CC=C3)C=C1)=O | C19H18O4
reactant | potassium hydroxide | 400 mg | [OH-].[K+]
solvent | ethanol | 2ml | C(C)O | C2H6O
solvent | water | 2 ml | O | H2O
product | 2-(10,11-dihydro-11-oxo dibenzo[b,f]oxepin-2-yl)-propionic acid | 112 mg | O=C1C2=C(OC3=C(C1)C=CC=C3)C=CC(=C2)C(C(=O)O)C | C17H14O4
